US08580783B2
2-amino-5-benzo[1,3]dioxol-5-ylmethyl-[1,2,4]triazolo[1,5-c]quinazoline-8-carboxylic acid-(2-hydroxy-ethyl)-amide
To a solution of 2-amino-5-benzo[1,3]dioxol-5-ylmethyl-[1,2,4]triazolo[1,5-c]quinazoline-8-carboxylic acid (0.05 g, 0.14 mmol) prepared as described in Example 19, and N,N-diisopropylethylamine (0.14 mL, 0.81 mmol) in anhydrous dichloromethane (5 mL), TBTU (0.05 g, 0.17 mmol) was added. The reaction was stirred at room temperature for 30 minutes, then 2-aminoethanol (0.02 mL, 0.28 mmol) was added. After stirring for 1 h, the solution washed with NaHCO3 satured solution, then with water and brine. The organic phase was dried over Na2SO4 and evaporated to give a crude that was purified by flash column chromatography on silica gel eluting with DCM/MeOH/NH4OH 8/2/1, to provide the title compound (0.03 g, 53% yield).

reactant | 2-amino-5-benzo[1,3]dioxol-5-ylmethyl-[1,2,4]triazolo[1,5-c]quinazoline-8-carboxylic acid | 0.14 mmol, 0.05 g | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)C(=O)O)CC1=CC2=C(OCO2)C=C1 | C18H13N5O4
reactant | N,N-diisopropylethylamine | 0.81 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.17 mmol, 0.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-aminoethanol | 0.28 mmol, 0.02 mL | NCCO | C2H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-amino-5-benzo[1,3]dioxol-5-ylmethyl-[1,2,4]triazolo[1,5-c]quinazoline-8-carboxylic acid-(2-hydroxy-ethyl)-amide | 0.03 g, 53% yield | OCCNC(=O)C=1C=CC=2C=3N(C(=NC2C1)CC1=CC2=C(OCO2)C=C1)N=C(N3)N | C20H18N6O4
